US05444080
A solution of 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazole-5-carboxaldehyde (1.1 g, 3.97 mmol) was dissolved in dry tetrahydrofuran (15 mL), cooled to -78° C. under argon, and a solution of methyl lithium (3.64 mL of 1.2M in diethyl ether, 4.57 mmol) was added dropwise. The mixture was stirred for 1.5 hours, quenched with ammonium chloride solution, warmed to ambient temperature and extracted with ethyl acetate. The washed, dried, concentrated product was flash chromatographed over silica gel with ethyl acetate to provide 1.07 g (92%) of 2-n-butyl-1-(2-chlorophenyl)methyl-5-(a-hydroxy)ethyl-1H-imidazole.

reactant | 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazole-5-carboxaldehyde | 3.97 mmol, 1.1 g | C(CCC)C=1N(C(=CN1)C=O)CC1=C(C=CC=C1)Cl | C15H17ClN2O
reactant | methyl lithium | 4.57 mmol, 1.2M, 3.64 mL | C[Li]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-n-butyl-1-(2-chlorophenyl)methyl-5-(a-hydroxy)ethyl-1H-imidazole | 1.07 g, 92% | C(CCC)C=1N(C(=CN1)C(C)O)CC1=C(C=CC=C1)Cl | C16H21ClN2O
